US08293768B2
Synthesis of 5-(1-benzyl-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylic acid
Following the procedure as described in Example 30, making variations as required to replace ethyl 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylate with ethyl 5-(1-benzyl-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylate, the title compound was obtained as a colorless solid in 86% yield: 1H NMR (300 MHz, DMSO-d6) δ 12.99 (br s, 1H), 8.75 (s, 1H), 7.40-7.24 (m, 6H), 4.97 (s, 2H), 2.46 (s, 3H); MS (ES−) m/z 314.2 (M−1).

reactant | ethyl 5-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylate | FC1=CC=C(CN2N=CN(C2=O)C2=CC(=C(S2)C(=O)OCC)C)C=C1 | C17H16FN3O3S
reactant | ethyl 5-(1-benzyl-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylate | C(C1=CC=CC=C1)N1N=CN(C1=O)C1=CC(=C(S1)C(=O)OCC)C | C17H17N3O3S
product | 5-(1-benzyl-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylic acid | 86% yield | C(C1=CC=CC=C1)N1N=CN(C1=O)C1=CC(=C(S1)C(=O)O)C | C15H13N3O3S
